US06914074B2
Trifluoro-methanesulfonic Acid 2-fluoro-4-methoxy-phenyl Ester 2-Fl uoro-4-methoxy-phenol
The title compound was prepared by reacting 2-fluoro-4-methoxy-phenol (2.8 g, 19.7 mmol) with trifluoromethanesulfonic anhydride (4.31 mL, 7.23 g, 25.6 mmol) according to method B to yield 3.86 g (68%) of a clear yellow oil. 1H NMR (DMSO-d6): δ 3.82 (3H, s), 6.89-6.94 (1H, m), 7.24 (1H, dd, J=12.49 Hz, J=2.98 Hz), 7.61 (1H, t, J=9.09 Hz).

reactant | 2-fluoro-4-methoxy-phenol | 19.7 mmol, 2.8 g | FC1=C(C=CC(=C1)OC)O | C7H7FO2
reactant | trifluoromethanesulfonic anhydride | 25.6 mmol, 4.31 mL, 7.23 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic Acid 2-fluoro-4-methoxy-phenyl Ester 2-Fl uoro-4-methoxy-phenol | FC1=C(C=CC(=C1)OC)O.FC1=C(C=CC(=C1)OC)OS(=O)(=O)C(F)(F)F | InChI=1S/C8H6F4O4S.C7H7FO2/c1-15-5-2-3-7(6(9)4-5)16-17(13,14)8(10,11)12;1-10-5-2-3-7(9)6(8)4-5/h2-4H,1H3;2-4,9H,1H3
